US06855718B2
Preparation of 5,7-dihydroxy-6-(2,4,6-trifluorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 22 mmol of diethyl 2-(2,4,6-trifluorophenyl)malonate, 24 mmol of triethylamine and 22 mmol of 3-amino-1,2,4-triazole was heated with stirring at 180° C. for 6 hours. The reaction mixture was then cooled to 50° C., admixed with a solution of 2.2 g of sodium hydroxide in 25 ml of water and stirred for 30 minutes. The aqueous phase was washed with ether and then acidified with conc. hydrochloric acid. The precipitated colorless solid was filtered off, washed with water and diisopropyl ether and dried. The yield of the title compound was 85% (m.p.: 200-201° C.).

reactant | diethyl 2-(2,4,6-trifluorophenyl)malonate | 22 mmol | FC1=C(C(=CC(=C1)F)F)C(C(=O)OCC)C(=O)OCC | C13H13F3O4
reactant | triethylamine | 24 mmol | C(C)N(CC)CC | C6H15N
reactant | 3-amino-1,2,4-triazole | 22 mmol | NC1=NNC=N1 | C2H4N4
reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 5,7-dihydroxy-6-(2,4,6-trifluorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine | OC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)O)N=CN2 | C11H5F3N4O2
